US08809363B2
Step 2: (S)-2-(tert-butoxy)-2-(2-methyl-4-(4-(trifluoromethyl)phenyl)-5,6,7,8-tetrahydrobenzo[4,5]thieno[2,3-b]pyridin-3-yl)acetic acid
1 M Aqueous sodium hydroxide solution (1.6 mL, 1.6 mmol) was added to a solution of (S)-methyl 2-(tert-butoxy)-2-(2-methyl-4-(4-(trifluoromethyl)phenyl)-5,6,7,8-tetrahydro benzo[4,5]thieno[2,3-b]pyridin-3-yl)acetate (75 mg, 0.15 mmol) in 1:1 tetrhydrofuran/industrial methylated spirit (4 mL) at room temperature. The resulting mixture was heated at 60° C. 1.5 h. The resulting solution was concentrated in vacuo and the residue was dissolved in water (10 mL). The aqueous solution was adjusted to pH 4 by the addition of 2 M aqueous hydrochloric acid solution and the resulting suspension was extracted with dichloromethane (20 mL). The organic layer was washed with brine, dried (MgSO4) and concentrated in vacuo to give the crude product as a pale yellow solid. This was purified by flash column chromatography on silica eluting with methanol in dichloromethane (5%) to give the title compound (40.3 mg, 56%) as a pale yellow solid.

reactant | sodium hydroxide | 1.6 mmol, 1 M, 1.6 mL | [OH-].[Na+]
reactant | (S)-methyl 2-(tert-butoxy)-2-(2-methyl-4-(4-(trifluoromethyl)phenyl)-5,6,7,8-tetrahydro benzo[4,5]thieno[2,3-b]pyridin-3-yl)acetate | 0.15 mmol, 75 mg | C(C)(C)(C)O[C@H](C(=O)OC)C=1C(=C2C(=NC1C)SC1=C2CCCC1)C1=CC=C(C=C1)C(F)(F)F | C26H28F3NO3S
product | (S)-2-(tert-butoxy)-2-(2-methyl-4-(4-(trifluoromethyl)phenyl)-5,6,7,8-tetrahydrobenzo[4,5]thieno[2,3-b]pyridin-3-yl)acetic acid | 40.3 mg, 56% | C(C)(C)(C)O[C@H](C(=O)O)C=1C(=C2C(=NC1C)SC1=C2CCCC1)C1=CC=C(C=C1)C(F)(F)F | C25H26F3NO3S
